US05925627
2-Benzyloxy-5-(trifluoromethoxy)iodobenzene
Iodine (71.96 g, 0.28 mol) in chloroform was added dropwise to a mixture of 2-benzyloxy-5-(trifluoromethoxy)benzene (Preparation 12, 73.06 g, 0.27 mol) and silver trifluoroacetate (71.57 g, 0.32 mol) in dichloromethane and the mixture was stirred at room temperature for 18 hours. The mixture was filtered through celite, washed with aqueous sodium thiosulfate (5%, 2×2 l), dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with hexane/ethyl acetate, to give the title compound as a colorless oil (108.03 g), containing 11% unreacted 2-benzyloxy-5-(trifluoromethoxy)iodobenzene. 1H NMR (360 MHz, CDCl3) δ 7.67 (1H, d, J=2.8 Hz), 7.40 (5H, m), 7.16 (1H, dd, J=8.9, 2.8 Hz), 6.82 (1H, d, J=8.9 Hz), and 5.14 (2H, s).

reactant | Iodine | 0.28 mol, 71.96 g | II | I2
reactant | 2-benzyloxy-5-(trifluoromethoxy)benzene | 0.27 mol, 73.06 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)OC(F)(F)F | C14H11F3O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | silver trifluoroacetate | 0.32 mol, 71.57 g | FC(C(=O)[O-])(F)F.[Ag+]
product | 2-Benzyloxy-5-(trifluoromethoxy)iodobenzene | 108.03 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OC(F)(F)F)I | C14H10F3IO2
